US07329754B2
2-(2-Benzothiazolyl)-5-tert-butoxycarbonyl-(1S,4S)-2,5-diazabicyclo-[2.2.1]-heptane (Intermediate compound)
2-Chlorobenzothiazole (2.57 g; 15.1 mmol) tert-butyl(1S,4S)-(−)-2,5-diazabicyclo-[2.2.1]heptane-2-carboxylate (2.0 g; 10.1 mmol) and dioxane (10 ml) was stirred at reflux for 19 days. Aqueous sodium hydroxide (50 ml; 1 M) was added. The mixture was extracted with ethyl acetate (2×50 ml). Chromatography on silica gel with a mixture of ethyl acetate and petroleum (1:3), gave the title compound as free base (oil). Yield 1.7 g (57%).

reactant | 2-Chlorobenzothiazole | 15.1 mmol, 2.57 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | tert-butyl(1S,4S)-(−)-2,5-diazabicyclo-[2.2.1]heptane-2-carboxylate | 10.1 mmol, 2.0 g | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | sodium hydroxide | 1 M, 50 ml | [OH-].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-(2-Benzothiazolyl)-5-tert-butoxycarbonyl-(1S,4S)-2,5-diazabicyclo-[2.2.1]-heptane | S1C(=NC2=C1C=CC=C2)N2[C@@H]1CN([C@H](C2)C1)C(=O)OC(C)(C)C | C17H21N3O2S
